datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)[H])CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(CC)[S]1 10=20;20,21=21"
"[NH:10]([H])C([H])C(C)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(C)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[NH:10](C)C(C(C=CC=C9)=C9[C:20](OC)=[O:21])C>>[O-:21][C:20]2([NH+:10](C)C(C7=C2C=CC=C7)C)OC 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])O[H])C.[O-:21]CCCCCC>>C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21]CCCCCC)C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C([H])[O]1 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)OC.C[O:10][K]>>C[O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)OC 10=21;21,20=20"
"[H][O+:10](C([H])C(CC)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[OH:10]C(CC)C(C)C([H])C(C)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)C([H])C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[Cl:21])C1=CC=CC=C1>>CCCCCCC1C(O[C:20](=[O:10])N1C)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"CC[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.C[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])C1=CC=CC=C1>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)C 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OC)[H]>>[Li][O:21][H].[C:20](=[O:10])(OC1=CC=CC=C1)OC 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C([H])[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH]([H])[S]1 10=20;20,21=21"
